US05922871
4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]-1-[N-(2-methoxyethyl)carbamoyl]benzene
4-[1-[3-(Isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid methyl ester (1.6 g) was dissolved in methanol (35 ml) and then, 2-methoxyethylamine (0.68 g) was added. And then, the reaction mixture was heated to reflux for 10 hours. The mixture was cooled, and after excess of water was added slowly to the solution at 35~40° C. to precipitate the crystals, the solution was slowly cooled again, stirred at 10° C. for 1 hour and filtered. The filtered solid was washed with a co-solvent (water:methanol=4:1, v/v) and was recrystallized using isopropanol and ether, filtered and dried to give 1.39 g (yield: 78%) of the desired compound. m.p.: 120~121° C.; 1H-NMR(CDCl3), ppm: δ 1.23(d, 6H), 3.15(m, 4H), 3.38(s, 3H), 3.55(m, 5H), 3.64(m, 2H), 3.91(m, 2H), 6.55(m, 1H), 6.90(m, 1H), 6.99(m, 1H), 7.49(m, 2H), 7.70(m, 1H), 7.81(m, 2H)

reactant | 4-[1-[3-(Isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid methyl ester | 1.6 g | COC(C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C)=O | C21H26N4O3
reactant | 2-methoxyethylamine | 0.68 g | COCCN | C3H9NO
reactant | water | O | H2O
solvent | methanol | 35 ml | CO | CH4O
product | 4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]-1-[N-(2-methoxyethyl)carbamoyl]benzene | 1.39 g, yield: 78% | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=CC=C(C=C1)C(NCCOC)=O | C23H31N5O3
